US06750232B2
2-Chloro-6-(2-furyl)-5-(4-pyridyl)-3-pyridinecarbonitrile
A suspension of 6-(2-furyl)-2-oxo-5-(4-pyridyl)-1,2-dihydro-3-pyridinecarbonitrile (21.0 g, 79.8 mmol) in phosphorus oxychloride (90 g) was stirred in a nitrogen atmosphere at 110° C. After 4 hours, additional phosphorus oxychloride (50 g) was added thereto, followed by heating under stirring for further 5 hours. After cooling as it was, the reaction solution was concentrated. After ice was added to the residue, it was neutralized with saturated sodium bicarbonate. After extracting with ethyl acetate (2 1)-tetrahydrofuran (1 1), the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. After adding diethyl ether to the residue, the resulting solid was collected by filtration and washed with diethyl ether, to give the title compound (13.6 g, 61%) as a dark yellow solid.

reactant | 6-(2-furyl)-2-oxo-5-(4-pyridyl)-1,2-dihydro-3-pyridinecarbonitrile | 79.8 mmol, 21.0 g | O1C(=CC=C1)C1=C(C=C(C(N1)=O)C#N)C1=CC=NC=C1 | C15H9N3O2
reactant | phosphorus oxychloride | 90 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus oxychloride | 50 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-6-(2-furyl)-5-(4-pyridyl)-3-pyridinecarbonitrile | 13.6 g, 61% | ClC1=NC(=C(C=C1C#N)C1=CC=NC=C1)C=1OC=CC1 | C15H8ClN3O
